US07354932B2
Preparation of 2-{4-[(1-allyl-4-methyl-1H-imidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione
To a solution of the above aldehyde (268 mg, 1.773 mmol) and 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindol-1,3-dione (743 mg, 2.13 mmol) in CH2Cl2 (17 mL) was added sodium triacetoxyborohydride (752 mg, 3.55 mmol). The reaction mixture was stirred at room temperature overnight. Then it was extracted with saturated NaHCO3 (3×20 mL). The organic layer was dried (MgSO4), filtered, concentrated, and dried in vacuo to afford a yellow foam. Purification by flash column chromatography on silica gel using 10% CH3OH/ethyl acetate afforded the product as a pale yellow foam (263 mg, 31%). 1H NMR (CDCl3) (as a mixture of regio-isomers) δ 1.52-1.60 (m, total 4H), 1.89-2.11 (m, total 8H), 2.56-2.66 (m, total 4H), 2.55 (t, 2H, J=7.5 Hz), 3.76 (d, 2H, J=6.0 Hz), 3.99 (t, 1H, J=6.0 Hz), 4.84-4.90 (m, total 1H) 4.93 and 4.96 (s, total 1H), 5.03-5.06 (m, total 2H), 5.83-5.87 (m, 1H), 6.43 (s, 1H), 6.99 (dd, 1H, J=3.0 Hz), 7.27 (d, 1H, J=6.0 Hz), 7.68-7.70 (m, 2H), 7.80-7.82 (m, 2H), 8.39 (d, 1H, J=3.0 Hz).

reactant | 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindol-1,3-dione | 2.13 mmol, 743 mg | N1=CC=CC=2CCCC(C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | sodium triacetoxyborohydride | 3.55 mmol, 752 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 17 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[(1-allyl-4-methyl-1H-imidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | 263 mg, 31% | C(C=C)N1C(=NC(=C1)C)CN(CCCCN1C(C2=CC=CC=C2C1=O)=O)C1CCCC=2C=CC=NC12 | C29H33N5O2
